US04992433
A mixture of 13.3 parts of ethyl 4-[[[4-(4,5-dihydro-2-oxazolyl)phenyl]amino]-methyl]-1-piperidinecarboxylate, 22.4 parts of potassium hydroxide and 240 parts of 2-propanol was stirred for 6 hours at reflux temperature. The reaction mixture was evaporated. The residue was taken up in water and the whole was evaporated again till all traces of 2-propanol were removed. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 5.1 parts (49.1%) of N-[4-(4,5-dihydro-2-oxazolyl)phenyl]-4-piperidinemethanamine as a residue (int. 77).

reactant | ethyl 4-[[[4-(4,5-dihydro-2-oxazolyl)phenyl]amino]-methyl]-1-piperidinecarboxylate | O1C(=NCC1)C1=CC=C(C=C1)NCC1CCN(CC1)C(=O)OCC | C18H25N3O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | N-[4-(4,5-dihydro-2-oxazolyl)phenyl]-4-piperidinemethanamine | 49.1% | O1C(=NCC1)C1=CC=C(C=C1)NCC1CCNCC1 | C15H21N3O
